US05998470
a) N-(4-phenylphenyl)-2-methylpropionamide
To a stirring solution of 4-aminobiphenyl (9.53 g, 56.3 mmol) and triethylamine (5.70 g, 56.3 mmol, 7.85 mL) in methylene chloride (60 mL), cooled to 0° C., was added slowly isobutyryl chloride (6.0 g, 56.3 mmol, 5.90 mL). After stirring at 0° C. for 1 h, the mixture was diluted with methylene chloride (120 mL) and washed with 1N NaOH and saturated brine, then dreid (MgSO4), filtered and concentrated. The residue was washed with ether and dried to provide the title compound as a pale yellow crystalline solid (9.83 g, 73%). 1HNMR (400 MHz, CDCl3 /CD3OD) δ 7.58 (d, 2H), 7.50 (m, 4H), 7.40-7.25 (m, 3H), 2.55-2.49 (m, 1H), 1.18 (d, 6H).

reactant | 4-aminobiphenyl | 56.3 mmol, 9.53 g | NC1=CC=C(C=C1)C1=CC=CC=C1 | C12H11N
reactant | triethylamine | 56.3 mmol, 7.85 mL, 5.70 g | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 56.3 mmol, 5.90 mL, 6.0 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 mL | C(Cl)Cl | CH2Cl2
product | N-(4-phenylphenyl)-2-methylpropionamide | 9.83 g, 73% | C1(=CC=CC=C1)C1=CC=C(C=C1)NC(C(C)C)=O | C16H17NO
